US04087620
1-Methoxycarbonyl-1-methyl-3-propylcyclopentane
Under an atmosphere of nitrogen, 3 ml. of a 1.4M solution of n-butyllithium in n-hexane were added to a solution of 0.643 ml. of diisopropylamine in 3 ml. of dry tetrahydrofuran at -78° C., and the solution was stirred at that temperature for 15 minutes. To the lithium diisopropylamide solution thus obtained was added dropwise a solution of 300 mg. of 1-methoxycarbonyl-3-propylcyclopentane in 5 ml. of dry tetrahydrofuran and the mixture was stirred at -78° C. for 30 minutes. To the solution was added a solution of 0.216 ml. of methyl iodide in 5 ml. of dry tetrahydrofuran and the mixture was stirred at -78° C. for one hour. The reaction mixture was quenched with an aqueous solution of ammonium chloride and extracted with diethyl ether. The extract was washed with 1N hydrochloric acid, an aqueous solution of sodium bicarbonate, water and an aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated under reduced pressure to give 330 mg. of the title compound having the following physical characteristic:

reactant | 1-methoxycarbonyl-3-propylcyclopentane | COC(=O)C1CC(CC1)CCC | C10H18O2
reactant | methyl iodide | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Methoxycarbonyl-1-methyl-3-propylcyclopentane | COC(=O)C1(CC(CC1)CCC)C | C11H20O2
